US06110962
(R)-6-Bromo-11-[3,5-dibromo-4-(1-bromomethyl-2-phenyl-ethoxy)-phenyl]-benzo[b]naphtho[2,3-d]thiophene
Diethylazodicarboxylate (0.151 mL, 0.96 mmol) was added dropwise to a 0° C., stirred solution of triphenylphosphine (0.257 g, 0.98 mmol) in THF (6 mL) under a dry nitrogen atmosphere. After 20 min., lithium bromide was added to a nearly colorless reation mixture, followed by adding a solution of (R)-6-bromo-1 1-[3,5-dibromo-4-(1-hydroxymethyl-2-phenyl-ethoxy)-phenyl]-benzo[b]naphtho[2,3-d]thiophene (0.273 g, 0.392 mmol) in THF (3 mL). After 1 h, the solution was allowed to warm to ambient temperature. After 2 h, the reaction mixture was quenched with water (0.2 mL) and further diluted with ethyl ether (50 mL). Silica gel (8 mL) was added. Solvent was removed and the silica adsorbate was flash chromatographed (eluent 98:2 petroleum ether:ethyl acetate) to provide the title compound as a white solid (0.23 g, 73%): mp >90° C. (dec.): MS (EI): [M+], 4 bromine isotope pattern, 756, 758, 760, 762, 764; Anal. Calc. for C28H17Br3N203S.0.25 hexane: C, 49.97, H, 2.97, N, 0.00. Found: C, 49.97, H, 2.83, N, 0.02.

reactant | Diethylazodicarboxylate | 0.96 mmol, 0.151 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 0.98 mmol, 0.257 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | lithium bromide | [Br-].[Li+]
reactant | (R)-6-bromo-1 1-[3,5-dibromo-4-(1-hydroxymethyl-2-phenyl-ethoxy)-phenyl]-benzo[b]naphtho[2,3-d]thiophene | 0.392 mmol, 0.273 g | BrC1=C2C=CC=CC2=C(C=2C3=C(SC21)C=CC=C3)C3=CC(=C(C(=C3)Br)O[C@H](CC3=CC=CC=C3)CO)Br | C31H21Br3O2S
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (R)-6-Bromo-11-[3,5-dibromo-4-(1-bromomethyl-2-phenyl-ethoxy)-phenyl]-benzo[b]naphtho[2,3-d]thiophene | 0.23 g, 73% | BrC1=C2C=CC=CC2=C(C=2C3=C(SC21)C=CC=C3)C3=CC(=C(C(=C3)Br)O[C@H](CC3=CC=CC=C3)CBr)Br | C31H20Br4OS
